US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyrimidinone
The title compound was prepared by a procedure similar to that described for E1 starting with 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone and 4-(chloromethyl)-1-methyl-1H-pyrazole hydrochloride. LC-MS (ESI): m/z 505 [M+H]+; 4.28 min (ret time).

reactant | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(NC=C1)=O)C(F)(F)F | C19H14ClF3N2O3
reactant | 4-(chloromethyl)-1-methyl-1H-pyrazole hydrochloride | Cl.ClCC=1C=NN(C1)C
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(N(C=C1)CC=1C=NN(C1)C)=O)C(F)(F)F | C24H20ClF3N4O3
